* D:\PacMan-Robot\301_Group_3_Analogue\LTSpice\301_model.asc
XU1 2V N004 5V 0 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 5V 0 5
R1 5V 2V 100k
R2 2V 0 68k
R3 N003 follower 4.7k
R4 N003 0 47
C1 out N003 3µ
C2 N004 N003 39n
R5 out N004 330k
V2 N001 P001 SINE(0 0.35 120 0 0 0 30)
V3 P001 N006 1.5
R6 src 0 100k
XU2 2V N002 5V 0 gain level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 N002 out 25k
R8 gain N002 100k
XU3 gain peak 5V 0 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 N005 peak D
C3 peak 0 500n
R9 peak 0 330k
V4 0 N006 SINE(0 0.05 100 0 0 0)
XU4 src follower 5V 0 follower level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V5 src N001 SINE(0 0.2 120 0.25 0 0 10)
.model D D
.lib \\files.auckland.ac.nz\myhome\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 300ms 0 1s
.lib UniversalOpamps2.sub
.backanno
.end
